US07705155B2
Synthesis of (R)-3-hydroxy-3-(3-hydroxymethyl-2-methoxy-pyridin-4-yl)-pentanoic acid
To a solution of 3.11 g (R)-3-{3-[3-(tert-butyl-dimethyl-silanyloxymethyl)-2-methoxy-pyridin-4-yl]-3-hydroxy-pentanoyl}-4-phenyl-oxazolidin-2-one (6.04 mmol), as obtainable from example 18, in 35 mL THF were added at 0° C. 37.8 mL aqueous LiOH solution (0.8 M, 30.2 mmol, 5.0 eq) and 3.02 mL aqueous H2O2 solution (10.0 M, 30.2 mmol, 5.0 eq). After 30 min, 220 mL aqueous NaOH solution (2 M) were added and the ice bath was removed. The reaction was monitored by HPLC. After 2 h (<0.2% area (R)-3-{3-[3-(tert-butyl-dimethyl-silanyloxymethyl)-2-methoxy-pyridin-4-yl]-3-hydroxy-pentanoyl}-4-phenyl-oxazolidin-2-one), the resulting emulsion was extracted 7 times with 100 mL, in total 700 mL TBME. The aqueous phase was acidified with aqueous HCl in order to adjust pH 3.0 and extracted nine times with 100 mL, in total 900 mL dichloromethane/ethanol (4:1). After evaporation in a rotary evaporator (40° C., 5 mbar), the title product was obtained as a colorless semisolid (700 mg, 2.74 mmol, yield of 45% w/w, or 85% when calculated over the two steps) and in a purity of 89.2% as determined by HPLC (er=80.47:19.53, see Chiral HPLC method below).

reactant | (R)-3-{3-[3-(tert-butyl-dimethyl-silanyloxymethyl)-2-methoxy-pyridin-4-yl]-3-hydroxy-pentanoyl}-4-phenyl-oxazolidin-2-one | 6.04 mmol, 3.11 g | C(C)(C)(C)[SiH2]OC(C=1C(=NC=CC1C(CC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)(CC)O)OC)(C)C | C27H38N2O6Si
reactant | LiOH | 30.2 mmol, 0.8 M, 37.8 mL, 5.0 eq | [Li+].[OH-]
reactant | H2O2 | 30.2 mmol, 10.0 M, 3.02 mL, 5.0 eq | OO | H2O2
reactant | NaOH | 2 M, 220 mL | [OH-].[Na+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | (R)-3-hydroxy-3-(3-hydroxymethyl-2-methoxy-pyridin-4-yl)-pentanoic acid | O[C@@](CC(=O)O)(CC)C1=C(C(=NC=C1)OC)CO | C12H17NO5
